data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cc(Cl)cc(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "Cc1cc(Cl)cc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "Cc1cc(Cl)cc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "Cc1cc(Cl)cc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1cc(Cl)cc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1cc(Cl)cc2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1ccc(C)c(C(=O)C2C3CCC2C3)c1", "products": "Cc1ccc(C)c([C]([O])C2C3CCC2C3)c1"}, {"reactants": "Cc1ccc(C)c([C]([O])C2C3CCC2C3)c1", "products": "Cc1ccc(C)c(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "Cc1ccc(C)c(C([O])=CC2C[CH]CC2)c1", "products": "Cc1ccc(C)c(C(O)=CC2C=CCC2)c1"}, {"reactants": "Cc1ccc(C)c(C(O)=CC2C=CCC2)c1", "products": "Cc1ccc(C)c(C(=O)CC2C=CCC2)c1"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "C12C(OS(=O)(=O)C3=CC=C(C)C=C3)C(OS(=O)(=O)C4=CC=C(C)C=C4)C(OS(=O)(=O)C5=CC=C(C)C=C5)C(O2)CO1.[O-]C", "products": "C12C=C(OS(=O)(=O)C3=CC=C(C)C=C3)C(OS(=O)(=O)C4=CC=C(C)C=C4)C(O2)CO1"}, {"reactants": "C12C=C(OS(=O)(=O)C3=CC=C(C)C=C3)C(OS(=O)(=O)C4=CC=C(C)C=C4)C(O2)CO1.[O-]C", "products": "C12C=C([O-])C(OS(=O)(=O)C3=CC=C(C)C=C3)C(O2)CO1"}, {"reactants": "C12C=C([O-])C(OS(=O)(=O)C3=CC=C(C)C=C3)C(O2)CO1", "products": "C12C3C(=O)C3C(O2)CO1"}, {"reactants": "C12C3C(=O)C3C(O2)CO1.[O-]C", "products": "C12C3C([O-])(OC)C3C(O2)CO1"}, {"reactants": "C12C3C([O-])(OC)C3C(O2)CO1.CO", "products": "C12C(C(=O)OC)CC(O2)CO1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CF)c([Si](C)(C)C)c(OC)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)C)c(OC)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)C)c(OC)c1=C", "products": "COc1c2c(cc([Si](C)(C)CF)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(F)C(C)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(F)C1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(F)C1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(F)C1(C)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(F)C1(C)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(F)C1(C)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(F)C1OC.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(F)C1OC.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(F)C1OC", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(F)C2OC.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(F)C2OC", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CC(F)C2OC)C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CC)c([Si](C)(C)CC)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CC)c([Si](C)(C)CC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CC)c([Si](C)(C)CC)cc1=C", "products": "CC[Si](C)(C)c1cc2c(cc1[Si](C)(C)CC)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1c(F)cccc1C(=O)C1C2CCC1C2", "products": "Cc1c(F)cccc1[C]([O])C1C2CCC1C2"}, {"reactants": "Cc1c(F)cccc1[C]([O])C1C2CCC1C2", "products": "Cc1c(F)cccc1C([O])=CC1C[CH]CC1"}, {"reactants": "Cc1c(F)cccc1C([O])=CC1C[CH]CC1", "products": "Cc1c(F)cccc1C(O)=CC1C=CCC1"}, {"reactants": "Cc1c(F)cccc1C(O)=CC1C=CCC1", "products": "Cc1c(F)cccc1C(=O)CC1C=CCC1"}]}
{"conditions": [], "steps": [{"reactants": "ON[C@@H]1C[C@H](CCl)C[C@H]2CC=CC[C@H]21.C=O", "products": "[O-]C[NH+](O)[C@@H]1C[C@H](CCl)C[C@H]2CC=CC[C@H]21"}, {"reactants": "[O-]C[NH+](O)[C@@H]1C[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "OCN(O)[C@@H]1C[C@H](CCl)C[C@H]2CC=CC[C@H]21"}, {"reactants": "OCN(O)[C@@H]1C[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "C=[N+](O)[C@@H]1C[C@H](CCl)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C[C@H](CCl)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "ClC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1"}]}
